US07399759B2
6-Butoxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 6-hydroxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one (0.35 g, 1.3 mmol), 1-bromobutane (0.38 g, 2.7 mmol) and potassium carbonate (0.56 g, 4.0 mmol) and DMF (10 ml) was stirred at room temperature for 15 hrs. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water and dried. The solvent was evaporated. The obtained crystals were recrystallized from tetrahydrofuran-hexane to give the titled compound (0.35 g, 83%).

reactant | 6-hydroxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.3 mmol, 0.35 g | OC=1C=CC2=C(C(N=C(S2)C2=NC=CC=C2)=O)C1 | C13H8N2O2S
reactant | 1-bromobutane | 2.7 mmol, 0.38 g | BrCCCC | C4H9Br
reactant | potassium carbonate | 4.0 mmol, 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Butoxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.35 g, 83% | C(CCC)OC=1C=CC2=C(C(N=C(S2)C2=NC=CC=C2)=O)C1 | C17H16N2O2S
